US06251925B1
5-(3-Nitrophenyl)-2,3-dihydro-7-benzofurancarboxylic acid methyl ester as a pale yellow solid (650 mg);
m.p. 53-57 ° C.; from 5-bromo-2,3-dihydro-7-benzofurancarboxylic acid methyl ester (1.0 g), tetrakis(triphenylphosphino)palladium(0) (103 mg), 2 M sodium carbonate (7.0 mL) and 3-nitrophenylboronic acid (741 mg) in methanol (5 mL).

reactant | 5-bromo-2,3-dihydro-7-benzofurancarboxylic acid methyl ester | 1.0 g | COC(=O)C1=CC(=CC=2CCOC21)Br | C10H9BrO3
reactant | sodium carbonate | 2 M, 7.0 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | 3-nitrophenylboronic acid | 741 mg | [N+](=O)([O-])C=1C=C(C=CC1)B(O)O | C6H6BNO4
solvent | methanol | 5 mL | CO | CH4O
catalyst | tetrakis(triphenylphosphino)palladium(0) | 103 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)[Pd-4](P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)(P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
product | 5-(3-Nitrophenyl)-2,3-dihydro-7-benzofurancarboxylic acid methyl ester | COC(=O)C1=CC(=CC=2CCOC21)C2=CC(=CC=C2)[N+](=O)[O-] | C16H13NO5
